US08633189B2
A flask containing ethyl 3-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)propanoate (258 mg, 0.71 mmol) and 10% Pd/C (26 mg) was evacuated and flushed with N2. Ethanol (3 mL) was added and the reaction stirred for 6 h under H2 atmosphere. The reaction was filtered and the solvent was removed under reduced pressure to provide ethyl 3-(2-amino-5-cyclopentyl-4-(methoxycarbonyloxy) phenyl)propanoate (175 mg, 74% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 6.83 (s, 1H), 6.33 (s, 1H), 4.94 (s, 2H), 4.06-4.01 (m, 2H), 3.79 (s, 3H), 2.88-2.79 (m, 1H), 2.68 (t, J=7.4 Hz, 2H), 2.55-2.50 (m, obscured by DMSO peak, 2H), 1.84-1.77 (m, 2H), 1.72-1.66 (m, 2H), 1.62-1.55 (m, 2H), 1.45-1.36 (m, 2H), 1.17 (td, J=7.1, 3.4 Hz, 3H).

reactant | ethyl 3-(5-cyclopentyl-4-methoxycarbonyloxy-2-nitro-phenyl)propanoate | 0.71 mmol, 258 mg | C1(CCCC1)C=1C(=CC(=C(C1)CCC(=O)OCC)[N+](=O)[O-])OC(=O)OC | C18H23NO7
catalyst | Pd/C | 26 mg | [Pd] | Pd
product | ethyl 3-(2-amino-5-cyclopentyl-4-(methoxycarbonyloxy) phenyl)propanoate | 175 mg, 74% yield | NC1=C(C=C(C(=C1)OC(=O)OC)C1CCCC1)CCC(=O)OCC | C18H25NO5
